2182-04-16 10:08:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Still tachypneic
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2182-4-15**] 03:30 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2182-4-16**] 07:00 AM
   Levofloxacin - [**2182-4-16**] 08:20 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-4-16**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2182-4-16**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-16**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.5
C (97.7
   HR: 70 (70 - 90) bpm
   BP: 105/56(69) {92/47(60) - 129/71(83)} mmHg
   RR: 21 (21 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,045 mL
                                                                  1,849 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                    865 mL
                                                                  1,849 mL
   Blood products:
   Total out:
                                                                  1,130 mL
                                                                  1,945 mL
   Urine:
                                                                  1,130 mL
                                                                  1,945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -85 mL
                                                                    -96 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General Appearance: frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, dry
   Lymphatic: No(t) Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Loud), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : scattered bilat)
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   119 K/uL
   215 mg/dL
   0.7 mg/dL
   18 mEq/L
   4.1 mEq/L
   13 mg/dL
   97 mEq/L
   128 mEq/L
   25.4 %
   3.7 K/uL
        [image002.jpg]
                             [**2182-4-16**]  04:00 AM
   WBC
   3.7
   Hct
   25.4
   Plt
   119
   Cr
   0.7
   Glucose
   215
   Other labs: PT / PTT / INR:13.3/76.4/1.1, LDH:511 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Metastatic ovarian CA
   PJP
   Anemia
   Hypoxia
   Steroid Rx
   Oxygenation adequate on current FIO2. Seems comfortable at rest but SOB
   with min exertion.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2182-4-15**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :
   Total time spent: 35
   Patient is critically ill
   Oxygenation remains tenuous. No sign of volume overload contributing.

2182-04-21 11:01:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2182-4-20**] 11:52 AM
 ARTERIAL LINE - START [**2182-4-20**] 03:40 PM
 STOOL CULTURE - At [**2182-4-20**] 10:28 PM
 FEVER - 101.5
F - [**2182-4-20**] 08:00 AM
   art line placed
   continued severe hypoxemia
   History obtained from ICU team
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2182-4-20**] 09:30 PM
   Cefipime - [**2182-4-21**] 08:01 AM
   Vancomycin - [**2182-4-21**] 08:02 AM
   Metronidazole - [**2182-4-21**] 09:22 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-4-20**] 09:40 PM
   Pantoprazole (Protonix) - [**2182-4-21**] 08:02 AM
   Other medications:
   vanco, cefepime, dexamethasone @ 6, PPI, CHG, midaz @ 1, fent @ 25,
   SQI, SQH, synthroid, neo @ 1, flagyl, caspofungin, pentamidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-21**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 99 (80 - 100) bpm
   BP: 91/48(61) {91/48(59) - 126/64(87)} mmHg
   RR: 20 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53 kg (admission): 46 kg
   Height: 61 Inch
             Total In:
                                                                  5,204 mL
                                                                  1,915 mL
   PO:
             TF:
                                                                    600 mL
                                                                    259 mL
   IVF:
                                                                  4,524 mL
                                                                  1,656 mL
   Blood products:
   Total out:
                                                                  1,168 mL
                                                                    201 mL
   Urine:
                                                                    658 mL
                                                                    201 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,036 mL
                                                                  1,714 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 687 (687 - 687) mL
   RR (Set): 28
   RR (Spontaneous): 2
   PEEP: 14 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, RR >35
   PIP: 32 cmH2O
   SpO2: 99%
   ABG: 7.25/31/98.[**Numeric Identifier 248**]/14/-12
   Ve: 12.4 L/min
   PaO2 / FiO2: 123
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Art line), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : ), chest wall deformity
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm, ecchymoses
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   53 K/uL
   164 mg/dL
   1.1 mg/dL
   14 mEq/L
   4.2 mEq/L
   32 mg/dL
   116 mEq/L
   139 mEq/L
   27.6 %
   2.7 K/uL
        [image002.jpg]
                             [**2182-4-20**]  06:40 AM
                             [**2182-4-20**]  04:46 PM
                             [**2182-4-20**]  05:32 PM
                             [**2182-4-20**]  06:00 PM
                             [**2182-4-20**]  07:48 PM
                             [**2182-4-20**]  09:53 PM
                             [**2182-4-21**]  01:50 AM
                             [**2182-4-21**]  03:13 AM
                             [**2182-4-21**]  04:30 AM
                             [**2182-4-21**]  04:31 AM
   WBC
   2.7
   Hct
   27.6
   Plt
   53
   Cr
   1.0
   1.1
   TCO2
   16
   15
   15
   13
   13
   12
   12
   14
   Glucose
   204
   164
   Other labs: PT / PTT / INR:15.0/54.2/1.3, ALT / AST:15/20, Alk Phos / T
   Bili:65/0.1, Differential-Neuts:78.3 %, Band:4.3 %, Lymph:9.8 %,
   Mono:2.2 %, Eos:2.2 %, Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL,
   LDH:577 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR: diffuse parenchymal disease
   Microbiology: [**2182-4-19**] 8:27 pm SPUTUM     Site: ENDOTRACHEAL
         Source: Endotracheal.
      GRAM STAIN (Final [**2182-4-20**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
   Assessment and Plan
   77-year-old woman with metastatic ovarian malignancy now with
   respiratory failure due to Pneumocystis, and hypotension of unclear
   etiology.
   Respiratory failure
   -          at least initially secondary to PCP
   [**Name Initial (PRE) **]          await final cultures before tailoring antibiotics for
   possible VAP
   Shock
   -          etiology uncertain at this point; likely septic
   -          continue broad-spectrum antibiotics
   -          stop Flagyl given two negative C diff toxin assays
   -          fluid boluses for high stroke volume variation
   -          volume challenge with isotonic bicarb (given non-gap
   acidosis)
   Fever
   - Maintain on broad-spectrum ABX pending cx and resolution of
   neutropenia
   Pneumocystis
   - on steroids, tapering
   - on pentamidine and casofungin per ID
   Thrombocytopenia
   - likely multifactorial; ID is concerned that pentamidine may play a
   role
   - check DIC labs and smear.  If no
   - follow for now
   Oliguric acute renal failure
   -          likely related to hemodynamics
   -          volume challenge with isotonic bicarb
   -          check urine lytes and sediment
   -          Renal ultrasound
   Non-gap metabolic acidosis
   -          Likely secondary to diarrhea and pentamidine
   Ovarian malignancy
   - No acute rx. Mgmt per onc
   Neutropenia
   - neutropenic precautions
   - antibiotics while febrile
   Altered mental status
   -          Quite unresponsive in spite of relatively minimal sedation
   -          Hold sedation
   -          CT head
   ICU Care
   Nutrition: nutren
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2182-4-15**] 03:30 PM
   PICC Line - [**2182-4-18**] 03:00 PM
   Arterial Line - [**2182-4-20**] 03:40 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  45 minutes
   Patient is critically ill

2182-04-25 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Family meeting yesterday to discuss plan of care.
   Patient made CMO. All aggressive treatment withdrawn.
   Remains on ventilator and tube feeds per family's wishes.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2182-4-23**] 06:10 PM
   Caspofungin - [**2182-4-23**] 11:55 PM
   Cefipime - [**2182-4-24**] 07:50 AM
   Metronidazole - [**2182-4-24**] 08:43 AM
   Infusions:
   Morphine Sulfate - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-4-24**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-25**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 73 (73 - 99) bpm
   BP: 105/54(66) {101/52(65) - 142/81(82)} mmHg
   RR: 30 (22 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53 kg (admission): 46 kg
   Height: 61 Inch
             Total In:
                                                                  1,441 mL
                                                                    244 mL
   PO:
             TF:
                                                                    648 mL
                                                                    152 mL
   IVF:
                                                                    748 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                    260 mL
                                                                    245 mL
   Urine:
                                                                    160 mL
                                                                     45 mL
   NG:
   Stool:
                                                                    100 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,181 mL
                                                                      0 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 12.8 L/min
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Paradoxical), (Breath Sounds: Wheezes
   : bilaterally)
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   44 K/uL
   10.5 g/dL
   155 mg/dL
   2.3 mg/dL
   15 mEq/L
   4.3 mEq/L
   71 mg/dL
   113 mEq/L
   139 mEq/L
   30.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2182-4-21**]  11:26 AM
                             [**2182-4-21**]  06:47 PM
                             [**2182-4-22**]  05:01 AM
                             [**2182-4-22**]  02:35 PM
                             [**2182-4-22**]  02:40 PM
                             [**2182-4-23**]  02:13 AM
                             [**2182-4-23**]  12:48 PM
                             [**2182-4-23**]  03:19 PM
                             [**2182-4-23**]  09:14 PM
                             [**2182-4-24**]  02:03 AM
   WBC
   6.6
   6.3
   8.4
   9.4
   Hct
   27.0
   23.8
   30.5
   31.5
   31.5
   30.1
   Plt
   44
   45
   49
   44
   Cr
   1.5
   1.5
   1.7
   2.0
   1.7
   2.3
   TCO2
   16
   22
   Glucose
   199
   146
   159
   173
   187
   155
   Other labs: PT / PTT / INR:18.6/42.1/1.7, ALT / AST:20/30, Alk Phos / T
   Bili:185/0.1, Amylase / Lipase:/75, Differential-Neuts:73.0 %,
   Band:15.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:886 mg/dL,
   Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:611 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Given her unresolving pneumonia, continuous vent requirement, CMV
   viremia, renal failure, and deterioration in neurological status, team
   felt it was unlikely for patient to recover. Family meeting was held
   and sons agreed to withdraw all care, except for the ventilator and
   tube feeds, as per the [**Hospital1 **] tradition. Patient was started on a
   morphine gtt for comfort. Continues on ventilator with high peep
   requirements and tube feeds with minimal residuals. All other
   interventions were discontinued. Will continue to communicate with
   family to answer questions as needed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2182-4-15**] 03:30 PM
   PICC Line - [**2182-4-18**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:

2182-04-25 11:07:00 Physician Attending Progress Note
Chief Complaint: Patient with metastatic ovarian cancer s/p multiple
   rounds of chemo with unresolving PCP pneumonia, high grade CMV viremia,
   altered mental status, renal failure, made CMO by family but continues
   on vent support and feeds.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   On morphine drip
   24 Hour Events:
   Made CMO by family, continue vent and feeds for now
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2182-4-23**] 06:10 PM
   Caspofungin - [**2182-4-23**] 11:55 PM
   Cefipime - [**2182-4-24**] 07:50 AM
   Metronidazole - [**2182-4-24**] 08:43 AM
   Infusions:
   Morphine Sulfate - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-25**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.5
   HR: 84 (73 - 99) bpm
   BP: 94/53(61) {94/50(61) - 131/81(82)} mmHg
   RR: 25 (21 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53 kg (admission): 46 kg
   Height: 61 Inch
             Total In:
                                                                  1,441 mL
                                                                    284 mL
   PO:
             TF:
                                                                    648 mL
                                                                    152 mL
   IVF:
                                                                    748 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                    260 mL
                                                                    275 mL
   Urine:
                                                                    160 mL
                                                                     75 mL
   NG:
   Stool:
                                                                    100 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,181 mL
                                                                      9 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 12 L/min
   Physical Examination
   General Appearance: Tachypneic, unresponsive on morphine drip
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: BS absent
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Unresponsive
   Labs / Radiology
   10.5 g/dL
   44 K/uL
   155 mg/dL
   2.3 mg/dL
   15 mEq/L
   4.3 mEq/L
   71 mg/dL
   113 mEq/L
   139 mEq/L
   30.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2182-4-21**]  11:26 AM
                             [**2182-4-21**]  06:47 PM
                             [**2182-4-22**]  05:01 AM
                             [**2182-4-22**]  02:35 PM
                             [**2182-4-22**]  02:40 PM
                             [**2182-4-23**]  02:13 AM
                             [**2182-4-23**]  12:48 PM
                             [**2182-4-23**]  03:19 PM
                             [**2182-4-23**]  09:14 PM
                             [**2182-4-24**]  02:03 AM
   WBC
   6.6
   6.3
   8.4
   9.4
   Hct
   27.0
   23.8
   30.5
   31.5
   31.5
   30.1
   Plt
   44
   45
   49
   44
   Cr
   1.5
   1.5
   1.7
   2.0
   1.7
   2.3
   TCO2
   16
   22
   Glucose
   199
   146
   159
   173
   187
   155
   Other labs: PT / PTT / INR:18.6/42.1/1.7, ALT / AST:20/30, Alk Phos / T
   Bili:185/0.1, Amylase / Lipase:/75, Differential-Neuts:73.0 %,
   Band:15.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:886 mg/dL,
   Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:611 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Patient with metastatic ovarian cancer s/p multiple rounds of chemo
   with unresolving PCP pneumonia, high grade CMV viremia, altered mental
   status, renal failure, made CMO by family but continues on vent support
   and feeds. Appears comfortable on morphine drip. Will discuss further
   care reg withdrawing vent to avoid prolongation of death, given such
   poor prognosis.
   ICU Care
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2182-4-15**] 03:30 PM
   PICC Line - [**2182-4-18**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition :ICU
   Total time spent:

2182-04-26 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient
s son expressed wish to discontinue ventilator per discussion
   with Dr. [**First Name (STitle) 322**], Onc fellow.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2182-4-23**] 06:10 PM
   Caspofungin - [**2182-4-23**] 11:55 PM
   Cefipime - [**2182-4-24**] 07:50 AM
   Metronidazole - [**2182-4-24**] 08:43 AM
   Infusions:
   Morphine Sulfate - 7 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-26**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.5
C (97.7
   HR: 83 (81 - 105) bpm
   BP: 73/41(47) {67/31(41) - 101/55(65)} mmHg
   RR: 30 (21 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53 kg (admission): 46 kg
   Height: 61 Inch
             Total In:
                                                                    813 mL
                                                                    310 mL
   PO:
             TF:
                                                                    277 mL
                                                                    185 mL
   IVF:
                                                                    536 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                    530 mL
                                                                    618 mL
   Urine:
                                                                     80 mL
                                                                     18 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                    283 mL
                                                                   -308 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, CMO
   PIP: 33 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 10.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   44 K/uL
   10.5 g/dL
   155 mg/dL
   2.3 mg/dL
   15 mEq/L
   4.3 mEq/L
   71 mg/dL
   113 mEq/L
   139 mEq/L
   30.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2182-4-21**]  11:26 AM
                             [**2182-4-21**]  06:47 PM
                             [**2182-4-22**]  05:01 AM
                             [**2182-4-22**]  02:35 PM
                             [**2182-4-22**]  02:40 PM
                             [**2182-4-23**]  02:13 AM
                             [**2182-4-23**]  12:48 PM
                             [**2182-4-23**]  03:19 PM
                             [**2182-4-23**]  09:14 PM
                             [**2182-4-24**]  02:03 AM
   WBC
   6.6
   6.3
   8.4
   9.4
   Hct
   27.0
   23.8
   30.5
   31.5
   31.5
   30.1
   Plt
   44
   45
   49
   44
   Cr
   1.5
   1.5
   1.7
   2.0
   1.7
   2.3
   TCO2
   16
   22
   Glucose
   199
   146
   159
   173
   187
   155
   Other labs: PT / PTT / INR:18.6/42.1/1.7, ALT / AST:20/30, Alk Phos / T
   Bili:185/0.1, Amylase / Lipase:/75, Differential-Neuts:73.0 %,
   Band:15.0 %, Lymph:6.0 %, Mono:3.0 %, Eos:1.0 %, Fibrinogen:886 mg/dL,
   Lactic Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:611 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Given her unresolving pneumonia, continuous vent requirement, CMV
   viremia, renal failure, and deterioration in neurological status, it is
   unlikely for patient to recover.
   - Continue comfort measures only
   - Confirm with son wishes to d/c ventilator; otherwise continue
   ventilation and tube feeds
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2182-4-25**] 07:00 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2182-4-15**] 03:30 PM
   PICC Line - [**2182-4-18**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition:
   ------ Protected Section ------
   [**Last Name (un) **] and present for pertinent parts of exam. Agree with assessment and
   plan detailed above.
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2182-4-26**] 18:17 ------